US08754085B2
Step 2: 7-(2,3-bis(3-Fluoro-4-methylphenyl)-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid
Ethyl 7-(2,3-bis(3-fluoro-4-methylphenyl)-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate (121 mg, 0.238 mmol) in THF (2 ml) and water (2 ml) was treated with LiOH (45.7 mg, 1.907 mmol) and the resulting mixture was stirred at RT for 18 h. The mixture was acidified to pH 4 with HCl and extracted with DCM. The organic extracts were combined, dried (sodium sulphate), filtered and concentrated in vacuo. The residue was azeotroped with ether to afford the title compound;

reactant | Ethyl 7-(2,3-bis(3-fluoro-4-methylphenyl)-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | 0.238 mmol, 121 mg | FC=1C=C(C=CC1C)C=1N=C2C(=NC1C1=CC(=C(C=C1)C)F)N(CCC2)CCCCCCC(=O)OCC | C30H35F2N3O2
reactant | LiOH | 1.907 mmol, 45.7 mg | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 2 ml | O | H2O
product | 7-(2,3-bis(3-Fluoro-4-methylphenyl)-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoic acid | FC=1C=C(C=CC1C)C=1N=C2C(=NC1C1=CC(=C(C=C1)C)F)N(CCC2)CCCCCCC(=O)O | C28H31F2N3O2
